US07485661B2
Step 3 Methyl 4-bromo-5-cyano-3-methylthiophene-2-carboxylate
Hydroxylamine hydrochloride (5 g, 72 mmol) was added to a solution of methyl 4-bromo-5-formyl-3-methylthiophene-2-carboxylate (16.5 g, 63 mmol) in acetonitrile (175 mL) and pyridine (30 mL). The resulting solution was stirred at room temperature for 2 h, then trifluoroacetic anhydride (21.3 mL, 153 mmol). After 3 h the reaction mixture was poured into ethyl acetate and aqueous hydrochloric acid. The organic layer was separated, washed with hydrochloric acid and water, dried over sodium sulphate and evaporated. The resulting raw material was triturated with 90 mL of a water/ethyl alcohol mixture (1:1) and dried under vacuum to give 15 g of the title compound, used in the following step without further purification.

reactant | Hydroxylamine hydrochloride | 72 mmol, 5 g | Cl.NO
reactant | methyl 4-bromo-5-formyl-3-methylthiophene-2-carboxylate | 63 mmol, 16.5 g | BrC=1C(=C(SC1C=O)C(=O)OC)C | C8H7BrO3S
reactant | trifluoroacetic anhydride | 153 mmol, 21.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 175 mL | C(C)#N | C2H3N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-bromo-5-cyano-3-methylthiophene-2-carboxylate | 15 g | BrC=1C(=C(SC1C#N)C(=O)OC)C | C8H6BrNO2S
